US07635715B2
Step E: Preparation of ethyl 4-(3-chloro-2-iodophenyl)-tetrahydro-2H-pyran-4-carboxylate
A mixture of ethyl 2-(3-chloro-2-iodophenyl)acetate (1.3 g, 4.0 mmol) in 6 mL DMF was stirred at room temperature and treated with sodium hydride (0.23 g, 10 mmol). The mixture turned orange, was stirred for 10 minutes, and was treated with 1-bromo-2-(2-bromoethoxy)ethane (1.2 g, 5.2 mmol) in 6 mL DMF dropwise. The mixture was then stirred at room temperature for 2.5 hours. The mixture was carefully quenched with 20 mL H2O and extracted with ether (3×100 mL). The combined organic layers were washed with water (3×50 mL), 20 mL saturated NaCl, dried over anhydrous Na2SO4, and concentrated. The crude product was purified by column eluting with (10-20% EtOAc/hexane) to give the title compound in 0.57 g. MS m/e: (M+H)+ 395.

reactant | ethyl 2-(3-chloro-2-iodophenyl)acetate | 4.0 mmol, 1.3 g | ClC=1C(=C(C=CC1)CC(=O)OCC)I | C10H10ClIO2
reactant | sodium hydride | 10 mmol, 0.23 g | [H-].[Na+]
reactant | 1-bromo-2-(2-bromoethoxy)ethane | 5.2 mmol, 1.2 g | BrCCOCCBr | C4H8Br2O
solvent | DMF | 6 mL | CN(C)C=O | C3H7NO
solvent | DMF | 6 mL | CN(C)C=O | C3H7NO
product | ethyl 4-(3-chloro-2-iodophenyl)-tetrahydro-2H-pyran-4-carboxylate | ClC=1C(=C(C=CC1)C1(CCOCC1)C(=O)OCC)I | C14H16ClIO3
